US04208416
A mixture of 2-methoxyphenethylamine (0.91 g, 6 mmole) and (S)-2-(2,3-epoxy-1-propoxy)-3-cyanopyridine (1.05 g, 6 mmole) was heated at 60° C. for 18 hr. Upon cooling, the material solidified. Recrystallization from toluene afforded (S)-2-[3-(2-methoxyphenethylamino)-2-hydroxy-1-propoxy]-3-cyanopyridine (m.p. 97°-99°).

reactant | 2-methoxyphenethylamine | 6 mmole, 0.91 g | COC1=C(CCN)C=CC=C1 | C9H13NO
reactant | (S)-2-(2,3-epoxy-1-propoxy)-3-cyanopyridine | 6 mmole, 1.05 g | O1[C@H](COC2=NC=CC=C2C#N)C1 | C9H8N2O2
product | (S)-2-[3-(2-methoxyphenethylamino)-2-hydroxy-1-propoxy]-3-cyanopyridine | COC1=C(CCNC[C@@H](COC2=NC=CC=C2C#N)O)C=CC=C1 | C18H21N3O3
